US05753679
0.5 g (0.00216 mol) of 1-benzyl-4-hydroxypiperidine and 0.64 ml (0.0046 mol) of triethylamine were dissolved in 20 ml of toluene and treated with 0.37 ml (0.0027 mol) of 3-bromo-benzoyl chloride. The mixture was boiled at reflux for 6 hrs., the precipitate was filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:3). 0.79 g (98%) of 1-benzyl-piperidin-4-yl 3-bromo-benzoate was obtained as a colorless oil.

reactant | 1-benzyl-4-hydroxypiperidine | 0.00216 mol, 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0046 mol, 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-benzoyl chloride | 0.0027 mol, 0.37 ml | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 3-bromo-benzoate | 0.79 g, 98% | BrC=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C19H20BrNO2
